US08202895B2
tert-Butyl [(2-chlorophenyl)(phenylsulphonyl)methyl]carbamate
Quantities of 2.78 g (23.7 mmol) of tert-butyl carbamate and 7.79 g (47.4 mmol) of benzenesulphinic acid sodium salt were introduced in 55 ml of methanol/water 1:2 at RT and admixed with 5 g (35.6 mmol) of 2-chlorobenzaldehyde and then with 1.78 ml (47.1 mmol) of formic acid. The mixture was stirred at RT for 2 days. The white solid precipitated was filtered off with suction and washed in succession twice each with water and diethyl ether. Drying in an HV gave 5.77 g (42% of theory) of the title compound.

reactant | tert-butyl carbamate | 23.7 mmol, 2.78 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | benzenesulphinic acid sodium salt | 47.4 mmol, 7.79 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | 2-chlorobenzaldehyde | 35.6 mmol, 5 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | formic acid | 47.1 mmol, 1.78 ml | C(=O)O | CH2O2
solvent | methanol water | 55 ml | CO.O
product | tert-Butyl [(2-chlorophenyl)(phenylsulphonyl)methyl]carbamate | ClC1=C(C=CC=C1)C(S(=O)(=O)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C18H20ClNO4S
